US04349377
50 g of 4-chloro-3-methylmercaptophenol, 62 g of 3,4-dichlorobenzotrifluoride and 12 g of sodium hydroxide are stirred in 150 ml of dimethyl sulphoxide for 6 hours at 142° C. The reaction mixture is then poured onto ice and extracted with toluene. Distillation of the organic phase yields 81 g of 3-(2'-chloro-4-trifluoromethylphenoxy)-6-chlorothioanisole with a boiling point of 158° C./0.4 mbar.

reactant | 4-chloro-3-methylmercaptophenol | 50 g | ClC1=C(C=C(C=C1)O)SC | C7H7ClOS
reactant | 3,4-dichlorobenzotrifluoride | 62 g | ClC=1C=C(C=CC1Cl)C(F)(F)F | C7H3Cl2F3
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | 3-(2'-chloro-4-trifluoromethylphenoxy)-6-chlorothioanisole | 81 g | ClC1=C(OC=2C=C(C(=CC2)Cl)SC)C=CC(=C1)C(F)(F)F | C14H9Cl2F3OS
